US05081271
b) 2'-Hydroxy-4'-trimethylsilylacetophenone
A mixture of 321 mg (13.2 mmol) of magnesium and 0.07 ml of methyl iodide in 1.32 ml of dry tetrahydrofuran was refluxed. After cooling, the mixture was diluted with 3.96 ml of dry tetrahydrofuran. To the mixture was added a solution of 4.0 g of crude 2-(4-bomo-2-trimethylsilyloxyphenyl)-2-methyl-1,3-dioxolane obtained above in 9.6 ml of dry tetrahydrofuran dropwise under refluxing and the mixture was refluxed for additional 2 hours. After cooling, 1.68 ml (13.2 mmol) of trimethylsilyl chloride was added to the reaction mixture and the mixture was refluxed for 2 hours. After cooling, water was added to the reaction mixture. The mixture was extracted with ether. The organic layer was washed with H2O and brine, dried over anhydrous Na2SO4, and evaporated. To the residue were added 72 ml of acetone, 10.8 ml (600 mmol) of water and 0.46 g (1.8 mmol) of pyridinium p-toluenesulfonate (PPTS). The mixture was refluxed for 4 hours, neutralized with aqueous sodium bicarbonate solution, and evaporated. The residue was dissolved in ether. The solution was washed with water, sodium bicarbonate and brine, dried over anhydrous Na2SO4, and evaporated. The residue was purified by column chromatography on silica gel [eluent: n-hexane-AcOEt (15:1)] to give 1.08 g of pale yellow liquid (yield 43%).

reactant | magnesium | 13.2 mmol, 321 mg | [Mg] | Mg
reactant | methyl iodide | 0.07 ml | CI | CH3I
reactant | trimethylsilyl chloride | 13.2 mmol, 1.68 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | pyridinium p-toluenesulfonate | 1.8 mmol, 0.46 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 1.32 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3.96 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 9.6 ml | O1CCCC1 | C4H8O
solvent | acetone | 72 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | water | 600 mmol, 10.8 ml | O | H2O
product | 2'-Hydroxy-4'-trimethylsilylacetophenone | 1.08 g, yield 43% | OC1=C(C=CC(=C1)[Si](C)(C)C)C(C)=O | C11H16O2Si
